US09422285B2
rac-tert-Butyl (2-cyanopentan-2-yl)carbamate-2-methylpropan-2-ol
64.21 g (294.18 mmol) of di-tert-butyl dicarbonate were initially charged in a round-bottom flask, and 30 g (267.44 mmol) of rac-2-amino-2-methylpentanenitrile were added very gradually at RT (internal thermometer, maximum temperature 30° C.), and stirring of the mixture was continued at room temperature overnight. The reaction mixture was admixed with dichloromethane and washed twice with 1 N sodium hydroxide solution. The organic phase was dried over sodium sulphate, filtered and concentrated (at bath temperature 30° C.). 76.33 g (quantitative yield) of the target compound were obtained.

reactant | di-tert-butyl dicarbonate | 294.18 mmol, 64.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | rac-2-amino-2-methylpentanenitrile | 267.44 mmol, 30 g | NC(C#N)(CCC)C | C6H12N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | rac-tert-Butyl (2-cyanopentan-2-yl)carbamate 2-methylpropan-2-ol | 76.33 g, quantitative yield | C(#N)C(C)(CCC)NC(OC(C)(C)C)=O.CC(C)(C)O | InChI=1S/C11H20N2O2.C4H10O/c1-6-7-11(5,8-12)13-9(14)15-10(2,3)4;1-4(2,3)5/h6-7H2,1-5H3,(H,13,14);5H,1-3H3
